US04508909
To a solution of N-(2-hydroxyethyl)dithiocarbamic acid methyl ester (81.7 g) in dichloromethane (300 ml) are added dihydropyran (54 g) and toluene-p-sulfonic acid monohydrate (1.0 g), and the mixture is stirred for 1 hour. The reaction mixture is poured in aqueous sodium hydrogen carbonate, shaken and the resulting organic layer is separated. The layer is concentrated under reduced pressure to give N-[2-(2-tetrahydropyranyl)oxyethyl]dithiocarbamic acid methyl ester (129 g).

reactant | N-(2-hydroxyethyl)dithiocarbamic acid methyl ester | 81.7 g | CSC(NCCO)=S | C4H9NOS2
reactant | dihydropyran | 54 g | O1CCCC=C1 | C5H8O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | toluene-p-sulfonic acid monohydrate | 1.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | N-[2-(2-tetrahydropyranyl)oxyethyl]dithiocarbamic acid methyl ester | 129 g | CSC(NCCOC1OCCCC1)=S | C9H17NO2S2
